US05776937
Analogously to Example 1, starting from methyl 2-piperazinoacetate [obtainable by reaction of methyl α-chloroacetate with piperazine] by reaction with 3-(1-BOC-4-piperidyl)-5-methanesulfonyloxymethyloxazolidin-2-one, 3-(1-BOC-4-piperidyl)-5-[4-(methoxycarbonylmethyl)piperazino]methyloxazolidin-2-one is obtained after customary working up.

reactant | methyl 2-piperazinoacetate | N1(CCNCC1)CC(=O)OC | C7H14N2O2
reactant | 3-(1-BOC-4-piperidyl)-5-methanesulfonyloxymethyloxazolidin-2-one | C(=O)(OC(C)(C)C)N1CCC(CC1)N1C(OC(C1)COS(=O)(=O)C)=O | C15H26N2O7S
product | 3-(1-BOC-4-piperidyl)-5-[4-(methoxycarbonylmethyl)piperazino]methyloxazolidin-2-one | C(=O)(OC(C)(C)C)N1CCC(CC1)N1C(OC(C1)CN1CCN(CC1)CC(=O)OC)=O | C21H36N4O6
